*
*|DSPF 1.5
*
*|DATE "Tue Jan 16 05:35:46 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "XNOR2X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  XNOR2X2 A B Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 5.13794e-16
*|P (A X 0 0.9320 1.6990)
*|I (MX31/M0#g MX31/M0 g X 0 0.9050 0.8025)
*|I (MX25/M0#g MX25/M0 g X 0 0.9050 3.2375)
*|S (A#7 0.9050 1.3250)
*|S (A#8 0.9200 1.3250)
C1 MX25/M0#g VSS 5.4058e-17
C2 MX31/M0#g VSS 3.95182e-17
C3 A#8 VSS 9.72711e-17
C4 A#7 VSS 7.93944e-17
C5 A VSS 2.43552e-16
Rg1 MX25/M0#g A#7 595.709106 $W=0.15
Rg2 A#7 MX31/M0#g 149.055740 $W=0.15
Rf3 A#8 A#7 16.129412 $W=0.17
Re4 A A#8 152.179810 $W=0.26
*
*|NET B 8.45221e-16
*|P (B X 0 0.4720 1.6840)
*|I (MX29/M0#g MX29/M0 g X 0 1.3350 0.8025)
*|I (MX28/M0#g MX28/M0 g X 0 0.4750 0.8025)
*|I (MX30/M0#g MX30/M0 g X 0 1.7650 3.2375)
*|I (MX24/M0#g MX24/M0 g X 0 0.4750 3.2375)
*|S (B#13 0.4700 2.1400)
*|S (B#14 1.4250 2.1400)
*|S (B#16 0.4700 2.1400)
*|S (B#17 0.4600 2.1400)
C6 MX24/M0#g VSS 5.66884e-17
C7 MX30/M0#g VSS 5.56115e-17
C8 MX28/M0#g VSS 4.18899e-17
C9 MX29/M0#g VSS 5.16018e-17
C10 B#17 VSS 2.45153e-16
C11 B#14 VSS 1.55061e-16
C12 B VSS 2.39216e-16
Rg5 MX24/M0#g B#13 333.822418 $W=0.15
Rg6 B#13 MX28/M0#g 410.942413 $W=0.15
Rg7 MX30/M0#g B#14 398.852631 $W=0.15
Rg8 B#14 MX29/M0#g 408.093323 $W=0.15
Rf9 B#14 B#16 86.905884 $W=0.17
Rf10 B#16 B#17 0.752941 $W=0.17
Rf11 B#13 B#16 15.000000 $W=0.0289
Re12 B B#17 152.219238 $W=0.26
*
*|NET Y 7.87509e-16
*|P (Y X 0 2.7720 1.8390)
*|I (MX23/M0#d MX23/M0 d X 0 2.7605 0.9700)
*|I (MX23/M1#s MX23/M1 s X 0 3.0395 0.9700)
*|I (MX26/M0#d MX26/M0 d X 0 2.7605 2.9850)
*|I (MX26/M1#s MX26/M1 s X 0 3.0395 2.9850)
*|S (Y#2 2.9000 2.7650)
*|S (Y#4 2.9000 0.9350)
C13 MX26/M0#d VSS 2.18046e-18
C14 Y#4 VSS 2.53259e-16
C15 Y#2 VSS 3.81787e-16
C16 Y VSS 1.50282e-16
Rf13 MX26/M0#d Y#2 10.991489 $W=0.47
Rf14 MX23/M0#d Y#4 8.423712 $W=0.485
Re15 Y#2 Y 76.407700 $W=0.26
Re16 Y Y#4 76.397125 $W=0.26
Rmw17 MX23/M1#s MX23/M0#d 0.001000 $W=1000000
Rmw18 MX26/M1#s MX26/M0#d 0.001000 $W=1000000
*
*|NET 5 1.72068e-15
*|I (MX28/M0#d MX28/M0 d X 0 0.3995 0.8025)
*|I (MX27/M0#g MX27/M0 g X 0 1.7650 0.8025)
*|I (MX24/M0#d MX24/M0 d X 0 0.3995 3.2375)
*|I (MM0#g MM0 g X 0 1.3350 3.2375)
*|S (5 1.3350 3.2375)
*|S (5#7 1.3450 2.6500)
*|S (5#8 1.7550 1.3700)
*|S (5#9 0.2600 3.5950)
*|S (5#12 0.2600 0.5700)
*|S (5#13 2.0500 1.3700)
*|S (5#15 2.0500 2.6500)
*|S (5#17 0.1750 2.6500)
C17 MX24/M0#d VSS 3.92822e-17
C18 MX27/M0#g VSS 3.48506e-17
C19 MX28/M0#d VSS 3.51903e-17
C20 5#17 VSS 2.98024e-16
C21 5#12 VSS 2.73112e-16
C22 5#9 VSS 1.77695e-16
C23 5#13 VSS 2.71739e-16
C24 5#15 VSS 2.91275e-16
C25 5#7 VSS 1.70921e-16
C26 5#8 VSS 7.86136e-17
C27 5 VSS 4.99769e-17
Rg19 5 5#7 180.218887 $W=0.15
Rg20 MX27/M0#g 5#8 158.792221 $W=0.15
Rf21 5#9 MX24/M0#d 42.105881 $W=0.17
Rf22 MX28/M0#d 5#12 32.317650 $W=0.17
Rf23 5#13 5#8 37.211765 $W=0.17
Rf24 5#15 5#7 53.082352 $W=0.17
Rf25 5#7 5#17 240.094116 $W=0.17
Re26 5#9 5#17 152.615158 $W=0.17
Re27 5#17 5#12 153.449722 $W=0.17
Re28 5#15 5#13 305.079529 $W=0.14
Rmw29 MM0#g 5 0.001000 $W=1000000
*
*|NET 8 1.28861e-15
*|I (MX31/M0#d MX31/M0 d X 0 0.9805 0.8025)
*|I (MX29/M0#s MX29/M0 s X 0 1.2595 0.8025)
*|I (MX22/M0#g MX22/M0 g X 0 2.1950 0.8025)
*|I (MX32/M0#g MX32/M0 g X 0 2.1950 3.2375)
*|I (MX25/M0#d MX25/M0 d X 0 0.9805 3.2375)
*|I (MM0#s MM0 s X 0 1.2595 3.2375)
*|S (8 2.2550 1.8000)
*|S (8#8 1.1200 3.3250)
*|S (8#11 1.1200 0.5850)
*|S (8#13 1.3050 1.8000)
C28 MX25/M0#d VSS 1.15228e-16
C29 MX32/M0#g VSS 5.64441e-17
C30 MX22/M0#g VSS 4.5829e-17
C31 MX31/M0#d VSS 5.23185e-17
C32 8#11 VSS 2.49994e-16
C33 8#8 VSS 2.20405e-16
C34 8#13 VSS 4.20399e-16
C35 8 VSS 1.27997e-16
Rg30 MX32/M0#g 8 447.799255 $W=0.15
Rg31 8 MX22/M0#g 306.412598 $W=0.15
Rf32 8#8 MX25/M0#d 21.776470 $W=0.17
Rf33 MX31/M0#d 8#11 31.188236 $W=0.17
Rf34 8 8#13 238.529419 $W=0.17
Re35 8#13 8#11 153.154343 $W=0.14
Re36 8#13 8#8 153.431122 $W=0.14
Rmw37 MX29/M0#s MX31/M0#d 0.001000 $W=1000000
Rmw38 MM0#s MX25/M0#d 0.001000 $W=1000000
*
*|NET 10 1.89406e-15
*|I (MX29/M0#d MX29/M0 d X 0 1.4105 0.8025)
*|I (MX27/M0#d MX27/M0 d X 0 1.6895 0.8025)
*|I (MX23/M0#g MX23/M0 g X 0 2.6850 0.9700)
*|I (MX23/M1#g MX23/M1 g X 0 3.1150 0.9700)
*|I (MX30/M0#s MX30/M0 s X 0 1.6895 3.2375)
*|I (MX26/M0#g MX26/M0 g X 0 2.6850 2.9850)
*|I (MX26/M1#g MX26/M1 g X 0 3.1150 2.9850)
*|I (MM0#d MM0 d X 0 1.4105 3.2375)
*|S (10 3.1150 2.9850)
*|S (10#13 3.1600 1.7975)
*|S (10#14 2.9450 1.7950)
*|S (10#15 2.6850 1.7975)
*|S (10#16 1.5500 3.3250)
*|S (10#19 1.5500 0.5850)
*|S (10#20 3.3300 1.7950)
*|S (10#23 1.7250 3.3250)
C36 MX26/M0#g VSS 6.60365e-17
C37 MX30/M0#s VSS 1.19954e-16
C38 MX23/M1#g VSS 5.47816e-17
C39 MX23/M0#g VSS 5.21659e-17
C40 MX29/M0#d VSS 5.68514e-17
C41 10#19 VSS 4.43709e-16
C42 10#16 VSS 5.97904e-16
C43 10#20 VSS 3.30981e-16
C44 10#14 VSS 1.00204e-16
C45 10 VSS 7.14748e-17
Rg39 10 10#13 373.068695 $W=0.15
Rg40 10#13 10#14 32.437237 $W=0.325
Rg41 10#14 10#15 27.511078 $W=0.325
Rg42 10#15 MX23/M0#g 261.000519 $W=0.15
Rg43 10#13 MX23/M1#g 250.647568 $W=0.15
Rg44 10#15 MX26/M0#g 376.680542 $W=0.15
Rf45 10#16 MX30/M0#s 21.776470 $W=0.17
Rf46 MX29/M0#d 10#19 31.188236 $W=0.17
Rf47 10#20 10#14 36.488235 $W=0.17
Re48 10#19 10#23 154.349503 $W=0.14
Re49 10#23 10#16 152.078278 $W=0.29
Re50 10#23 10#20 154.273453 $W=0.17
Rmw51 MX27/M0#d MX29/M0#d 0.001000 $W=1000000
Rmw52 MX26/M1#g 10 0.001000 $W=1000000
Rmw53 MM0#d MX30/M0#s 0.001000 $W=1000000
*
*|NET 14 1.01203e-16
*|I (MX27/M0#s MX27/M0 s X 0 1.8405 0.8025)
*|I (MX22/M0#d MX22/M0 d X 0 2.1195 0.8025)
*|S (14 1.9800 0.8000)
C46 14 VSS 1.01203e-16
Rmw54 MX27/M0#s 14 0.001000 $W=1000000
Rmw55 MX22/M0#d 14 0.001000 $W=1000000
*
*|NET 16 1.40679e-16
*|I (MX32/M0#d MX32/M0 d X 0 2.1195 3.2375)
*|I (MX30/M0#d MX30/M0 d X 0 1.8405 3.2375)
*|S (16 1.9800 3.2350)
C47 16 VSS 1.40679e-16
Rmw56 MX32/M0#d 16 0.001000 $W=1000000
Rmw57 MX30/M0#d 16 0.001000 $W=1000000
*
*Instance Section
*
MX31/M0	MX31/M0#d	MX31/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX29/M0	MX29/M0#d	MX29/M0#g	MX29/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX28/M0	MX28/M0#d	MX28/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX27/M0	MX27/M0#d	MX27/M0#g	MX27/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX23/M0	MX23/M0#d	MX23/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX23/M1	VSS	MX23/M1#g	MX23/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX22/M0	MX22/M0#d	MX22/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX32/M0	MX32/M0#d	MX32/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX30/M0	MX30/M0#d	MX30/M0#g	MX30/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX26/M0	MX26/M0#d	MX26/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX26/M1	VDD	MX26/M1#g	MX26/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX25/M0	MX25/M0#d	MX25/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX24/M0	MX24/M0#d	MX24/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MM0	MM0#d	MM0#g	MM0#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
