*
*|DSPF 1.5
*
*|DATE "Tue Jan 16 05:37:10 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "XNOR2X4"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  XNOR2X4 A B Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 5.72131e-16
*|P (A X 0 0.4720 2.6790)
*|I (MX26/M0#g MX26/M0 g X 0 0.4750 0.8025)
*|I (MX29/M0#g MX29/M0 g X 0 0.4750 3.2375)
*|S (A#7 0.4750 2.4850)
*|S (A#9 0.4600 2.4850)
C1 MX29/M0#g VSS 4.90271e-17
C2 MX26/M0#g VSS 4.11364e-17
C3 A#9 VSS 1.32008e-16
C4 A VSS 3.49959e-16
Rg1 MX29/M0#g A#7 222.962418 $W=0.15
Rg2 A#7 MX26/M0#g 521.802429 $W=0.15
Rf3 A#7 A#9 16.129412 $W=0.17
Re4 A A#9 152.093262 $W=0.26
*
*|NET B 7.49454e-16
*|P (B X 0 0.9320 1.5990)
*|I (MX33/M0#g MX33/M0 g X 0 1.8850 0.9700)
*|I (MX24/M0#g MX24/M0 g X 0 0.9050 0.8025)
*|I (MX34/M0#g MX34/M0 g X 0 0.9050 3.2375)
*|I (MX30/M0#g MX30/M0 g X 0 1.8850 2.9850)
*|S (B#13 1.8850 1.5550)
*|S (B#14 1.0750 1.4650)
*|S (B#15 0.8750 1.4650)
*|S (B#17 0.9200 1.4650)
C5 MX30/M0#g VSS 8.1867e-17
C6 MX34/M0#g VSS 5.21348e-17
C7 MX24/M0#g VSS 4.38331e-17
C8 MX33/M0#g VSS 6.42517e-17
C9 B#14 VSS 1.64806e-16
C10 B VSS 3.42562e-16
Rg5 MX30/M0#g B#13 457.661713 $W=0.15
Rg6 B#13 B#14 201.603729 $W=0.15
Rg7 B#14 B#15 13.948788 $W=0.33
Rg8 B#15 MX24/M0#g 202.306183 $W=0.15
Rg9 B#13 MX33/M0#g 186.135025 $W=0.15
Rg10 B#15 MX34/M0#g 562.992371 $W=0.15
Rf11 B#14 B#17 19.170588 $W=0.17
Re12 B B#17 152.064423 $W=0.26
*
*|NET Y 1.1735e-15
*|P (Y X 0 4.6120 1.8590)
*|I (MX25/M0#d MX25/M0 d X 0 3.7705 0.9700)
*|I (MX25/M1#s MX25/M1 s X 0 4.0495 0.9700)
*|I (MX25/M2#d MX25/M2 d X 0 4.6305 0.9700)
*|I (MX25/M3#s MX25/M3 s X 0 4.9095 0.9700)
*|I (MX23/M0#d MX23/M0 d X 0 3.7705 2.9850)
*|I (MX23/M1#s MX23/M1 s X 0 4.0495 2.9850)
*|I (MX23/M2#d MX23/M2 d X 0 4.6305 2.9850)
*|I (MX23/M3#s MX23/M3 s X 0 4.9095 2.9850)
*|S (Y#2 3.9100 2.9450)
*|S (Y#3 3.9100 1.0050)
*|S (Y#6 4.7700 2.9450)
*|S (Y#7 4.7700 1.0050)
*|S (Y#10 3.9100 1.8850)
C11 MX25/M2#d VSS 1.24126e-16
C12 MX25/M0#d VSS 1.2597e-16
C13 Y#10 VSS 1.10261e-16
C14 Y#3 VSS 9.00982e-17
C15 Y#2 VSS 2.7899e-16
C16 Y#7 VSS 9.08441e-17
C17 Y#6 VSS 2.54932e-16
C18 Y VSS 9.82816e-17
Rf13 MX23/M0#d Y#2 5.616868 $W=0.83
Rf14 Y#3 MX25/M0#d 8.423712 $W=0.485
Rf15 MX23/M2#d Y#6 5.616868 $W=0.83
Rf16 Y#7 MX25/M2#d 8.423712 $W=0.485
Re17 Y#6 Y 51.115448 $W=0.26
Re18 Y Y#10 0.321480 $W=0.23
Re19 Y#10 Y#3 76.473473 $W=0.23
Re20 Y Y#7 76.369560 $W=0.26
Re21 Y#10 Y#2 51.237968 $W=0.23
Rmw22 MX25/M1#s MX25/M0#d 0.001000 $W=1000000
Rmw23 MX25/M3#s MX25/M2#d 0.001000 $W=1000000
Rmw24 MX23/M1#s MX23/M0#d 0.001000 $W=1000000
Rmw25 MX23/M3#s MX23/M2#d 0.001000 $W=1000000
*
*|NET 6 1.42318e-15
*|I (MX27/M0#g MX27/M0 g X 0 2.3150 0.9700)
*|I (MX24/M0#d MX24/M0 d X 0 0.9805 0.8025)
*|I (MX34/M0#d MX34/M0 d X 0 0.9805 3.2375)
*|I (MX32/M0#g MX32/M0 g X 0 2.3150 2.9850)
*|S (6 2.3150 2.9850)
*|S (6#7 2.3750 1.8050)
*|S (6#9 1.1200 3.0900)
*|S (6#11 1.1200 0.5350)
*|S (6#13 1.3050 1.8050)
C19 MX24/M0#d VSS 5.22906e-17
C20 MX27/M0#g VSS 5.63961e-17
C21 6#11 VSS 2.69993e-16
C22 6#9 VSS 2.95387e-16
C23 6#13 VSS 5.20837e-16
C24 6#7 VSS 1.58321e-16
C25 6 VSS 6.99504e-17
Rg26 6 6#7 365.055939 $W=0.15
Rg27 6#7 MX27/M0#g 254.195938 $W=0.15
Rf28 MX34/M0#d 6#9 25.917646 $W=0.17
Rf29 MX24/M0#d 6#11 34.952942 $W=0.17
Rf30 6#7 6#13 247.564697 $W=0.17
Re31 6#9 6#13 152.913010 $W=0.14
Re32 6#13 6#11 152.975845 $W=0.14
Rmw33 MX32/M0#g 6 0.001000 $W=1000000
*
*|NET 8 2.21452e-15
*|I (MX33/M0#s MX33/M0 s X 0 1.8095 0.9700)
*|I (MX28/M0#g MX28/M0 g X 0 3.2650 0.9700)
*|I (MX26/M0#s MX26/M0 s X 0 0.3995 0.8025)
*|I (MX32/M0#d MX32/M0 d X 0 2.3905 2.9850)
*|I (MX31/M0#g MX31/M0 g X 0 3.2650 2.9850)
*|I (MX29/M0#s MX29/M0 s X 0 0.3995 3.2375)
*|S (8 3.2050 2.1450)
*|S (8#8 0.2600 3.6150)
*|S (8#11 0.2600 0.5350)
*|S (8#12 1.6700 1.0050)
*|S (8#15 2.5300 2.1450)
*|S (8#16 1.7300 2.1450)
*|S (8#17 0.1750 1.8050)
C26 MX29/M0#s VSS 6.10518e-17
C27 MX31/M0#g VSS 5.77248e-17
C28 MX32/M0#d VSS 1.7673e-16
C29 MX26/M0#s VSS 2.9413e-17
C30 MX28/M0#g VSS 5.95882e-17
C31 MX33/M0#s VSS 1.06687e-16
C32 8#15 VSS 1.26829e-16
C33 8#17 VSS 3.66986e-16
C34 8#11 VSS 1.81796e-16
C35 8#8 VSS 2.82315e-16
C36 8#12 VSS 2.2716e-16
C37 8#16 VSS 4.41923e-16
C38 8 VSS 9.63209e-17
Rg34 MX31/M0#g 8 255.802612 $W=0.15
Rg35 8 MX28/M0#g 363.449280 $W=0.15
Rf36 8#8 MX29/M0#s 43.611763 $W=0.17
Rf37 MX26/M0#s 8#11 34.952942 $W=0.17
Rf38 8#12 MX33/M0#s 8.423712 $W=0.485
Rf39 8 8#15 65.333580 $W=0.17
Rf40 8#15 8#16 59.745342 $W=0.17
Rf41 8#16 8#17 276.539307 $W=0.17
Rf42 8#15 MX32/M0#d 63.010674 $W=0.17
Re43 8#8 8#17 153.251190 $W=0.17
Re44 8#17 8#11 152.854126 $W=0.17
Re45 8#16 8#12 228.765594 $W=0.17
*
*|NET 10 1.76223e-15
*|I (MX33/M0#d MX33/M0 d X 0 1.9605 0.9700)
*|I (MX27/M0#s MX27/M0 s X 0 2.2395 0.9700)
*|I (MX25/M0#g MX25/M0 g X 0 3.6950 0.9700)
*|I (MX25/M1#g MX25/M1 g X 0 4.1250 0.9700)
*|I (MX25/M2#g MX25/M2 g X 0 4.5550 0.9700)
*|I (MX25/M3#g MX25/M3 g X 0 4.9850 0.9700)
*|I (MX32/M0#s MX32/M0 s X 0 2.2395 2.9850)
*|I (MX30/M0#d MX30/M0 d X 0 1.9605 2.9850)
*|I (MX23/M0#g MX23/M0 g X 0 3.6950 2.9850)
*|I (MX23/M1#g MX23/M1 g X 0 4.1250 2.9850)
*|I (MX23/M2#g MX23/M2 g X 0 4.5550 2.9850)
*|I (MX23/M3#g MX23/M3 g X 0 4.9850 2.9850)
*|S (10 4.9850 2.9850)
*|S (10#25 4.9850 1.6250)
*|S (10#26 4.5550 1.6250)
*|S (10#27 4.3400 1.6250)
*|S (10#28 4.1250 1.6250)
*|S (10#29 3.6950 1.6250)
*|S (10#31 2.1000 2.7650)
*|S (10#32 2.1000 1.0050)
*|S (10#35 3.4500 1.6250)
*|S (10#37 2.1000 1.6250)
C39 MX23/M2#g VSS 6.13049e-17
C40 MX23/M1#g VSS 5.90924e-17
C41 MX23/M0#g VSS 6.14791e-17
C42 MX32/M0#s VSS 1.61392e-18
C43 MX25/M3#g VSS 5.32727e-17
C44 MX25/M2#g VSS 4.81412e-17
C45 MX25/M1#g VSS 4.75509e-17
C46 MX25/M0#g VSS 4.93918e-17
C47 MX33/M0#d VSS 1.19326e-16
C48 10#37 VSS 2.02847e-16
C49 10#32 VSS 1.40995e-16
C50 10#31 VSS 4.25193e-16
C51 10#35 VSS 2.10474e-16
C52 10#27 VSS 2.13198e-16
C53 10 VSS 6.83467e-17
Rg46 10 10#25 433.036652 $W=0.15
Rg47 10#25 10#26 62.011234 $W=0.27
Rg48 10#26 10#27 36.929379 $W=0.27
Rg49 10#27 10#28 36.929379 $W=0.27
Rg50 10#28 10#29 62.011227 $W=0.27
Rg51 10#29 MX25/M0#g 206.496658 $W=0.15
Rg52 10#25 MX25/M3#g 206.496658 $W=0.15
Rg53 10#26 MX25/M2#g 203.939743 $W=0.15
Rg54 10#26 MX23/M2#g 430.479736 $W=0.15
Rg55 10#28 MX25/M1#g 203.939743 $W=0.15
Rg56 10#28 MX23/M1#g 430.479736 $W=0.15
Rg57 10#29 MX23/M0#g 433.036652 $W=0.15
Rf58 MX32/M0#s 10#31 10.991489 $W=0.47
Rf59 10#32 MX33/M0#d 8.423712 $W=0.485
Rf60 10#27 10#35 72.011765 $W=0.17
Re61 10#35 10#37 152.682556 $W=0.23
Re62 10#37 10#32 76.332169 $W=0.23
Re63 10#37 10#31 76.614784 $W=0.23
Rmw64 MX27/M0#s MX33/M0#d 0.001000 $W=1000000
Rmw65 MX30/M0#d MX32/M0#s 0.001000 $W=1000000
Rmw66 MX23/M3#g 10 0.001000 $W=1000000
*
*|NET 15 9.12752e-16
*|I (MX31/M0#d MX31/M0 d X 0 3.1895 2.9850)
*|I (MX30/M0#s MX30/M0 s X 0 1.8095 2.9850)
*|S (15 1.6700 3.0250)
*|S (15#3 3.0500 3.0250)
C54 MX30/M0#s VSS 1.59585e-16
C55 MX31/M0#d VSS 1.50402e-16
C56 15#3 VSS 2.38746e-16
C57 15 VSS 3.64018e-16
Rf67 15 MX30/M0#s 5.616868 $W=0.83
Rf68 15#3 MX31/M0#d 5.616868 $W=0.83
Re69 15#3 15 102.279053 $W=0.23
*
*|NET 18 2.26672e-16
*|I (MX28/M0#d MX28/M0 d X 0 3.1895 0.9700)
*|I (MX27/M0#d MX27/M0 d X 0 2.3905 0.9700)
*|S (18 2.5300 0.9700)
C58 MX28/M0#d VSS 1.11551e-16
C59 18 VSS 1.1512e-16
Rf70 MX28/M0#d 18 87.279922 $W=0.17
Rmw71 MX27/M0#d 18 0.001000 $W=1000000
*
*Instance Section
*
MX33/M0	MX33/M0#d	MX33/M0#g	MX33/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M0	MX28/M0#d	MX28/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX27/M0	MX27/M0#d	MX27/M0#g	MX27/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX26/M0	VSS	MX26/M0#g	MX26/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX25/M0	MX25/M0#d	MX25/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX25/M1	VSS	MX25/M1#g	MX25/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX25/M2	MX25/M2#d	MX25/M2#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX25/M3	VSS	MX25/M3#g	MX25/M3#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX24/M0	MX24/M0#d	MX24/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX34/M0	MX34/M0#d	MX34/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX32/M0	MX32/M0#d	MX32/M0#g	MX32/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX31/M0	MX31/M0#d	MX31/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX30/M0	MX30/M0#d	MX30/M0#g	MX30/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX29/M0	VDD	MX29/M0#g	MX29/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX23/M0	MX23/M0#d	MX23/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX23/M1	VDD	MX23/M1#g	MX23/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX23/M2	MX23/M2#d	MX23/M2#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX23/M3	VDD	MX23/M3#g	MX23/M3#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
